US05891909
c) 3-[5-Methyl-3-(2-nitrophenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (1.12 mg, 7.0 mmol) was added to a solution of 3-[5-methyl-3-(2-nitrophenylsulfonyloxy)phenoxy]propanol (920 mg, 2.5 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol) and anhydrous dimethyl sulfoxide (0.4 mL, 5.6 mmol) in anhydrous dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a pale yellow oil (780 mg, 85%). 1H-NMR (300 MHz, CDCl3) δ 9.84 (s, 1H), 7.99 (d, J=7.6 Hz, 1H), 7.85 (m, 2H), 7.70 (m, 1H), 6.64 (s, 2H), 6.57 (s, 1H), 4.22 (t, J=6.0 Hz, 2H), 2.88 (t, J=6.0 Hz, 2H), 2.27 (s, 3H).

reactant | 3-[5-methyl-3-(2-nitrophenylsulfonyloxy)phenoxy]propanol | 2.5 mmol, 920 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H17NO7S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 5.6 mmol, 0.4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(2-nitrophenylsulfonyloxy)phenoxy]propionaldehyde | 780 mg, 85% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H15NO7S
